US07786132B2
A 2.5 M solution of n-butyllithium (67.3 mL) in hexanes was added dropwise over 2 h to a stirred solution of N-(pyridin-4-yl)pivalamide (12.0 g, 0.067 mol) in tetrahydrofuran (268 mL) at -10° C. (acetone/ice 1:1) under nitrogen. The temperature was kept between −10° C. and 1° C. Upon complete addition, the temperature returned to −10° C. and a solution of tetraethylthiuram disulfide (59.9 g, 0.202 mol) in tetrahydrofuran (180 mL) was added dropwise, rapidly. The mixture was allowed to warm to r.t., poured into water (500 mL) and extracted with diethyl ether (2×400 mL). The organic layers were combined, washed with brine (300 mL), then separated, dried over sodium sulfate, filtered and the solvent evaporated in vacuo to yield 4-pivalamidopyridin-3-yl diethylcarbamodithioate (21.9 g, 100%) as an orange oil. 1H NMR: δ (CDCl3, 400 MHz) 1.28 (s, 9H), 1.31 (t, J=7 Hz, 3H), 1.46 (t, J=7 Hz, 3H), 3.93 (q, J=7 Hz, 2H), 4.03 (q, J=7 Hz, 2H), 8.39 (d, J=5 Hz, 1H), 8.45 (br. s., 1H), 8.52 (s, 1H), 8.61 (d, J=5 Hz, 1H).

reactant | n-butyllithium | 67.3 mL | C(CCC)[Li]
reactant | N-(pyridin-4-yl)pivalamide | 0.067 mol, 12.0 g | N1=CC=C(C=C1)NC(C(C)(C)C)=O | C10H14N2O
reactant | tetraethylthiuram disulfide | 0.202 mol, 59.9 g | C(C)N(C(SSC(N(CC)CC)=S)=S)CC | C10H20N2S4
reactant | water | 500 mL | O | H2O
solvent | tetrahydrofuran | 268 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
catalyst | acetone ice 1 | CC(=O)C.C[C@@H]1OC[C@@H]2[C@@H](O1)[C@@H]([C@H]([C@@H](O2)OC3[C@H]4COC(=O)[C@@H]4[C@@H](C5=CC6=C(C=C35)OCO6)C7=CC(=C(C(=C7)OC)O)OC)O)O.C1CN(P(=O)(OC1)NCCCl)CCCl.[NH2-].[NH2-].Cl[Pt+2]Cl
product | 4-pivalamidopyridin-3-yl diethylcarbamodithioate | 21.9 g, 100% | C(C)N(C(=S)SC=1C=NC=CC1NC(C(C)(C)C)=O)CC | C15H23N3OS2
